US04267331
To the suspension arising from the admixture of 865 mg. (4.20 mmole) of dicyclohexylcarbodiimide and 748 mg. (4.20 mmole) of 3-benzoylpropionic acid in 30 ml. of dichloromethane at 0° C. was added 1.0 g. (4.0 mmole) of dl-trans-5-phenyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole in 10 ml. of the same solvent. The resulting mixture was stirred and allowed to warm to room temperature over 2 hours. After cooling again to 0° C. the reaction mixture was filtered, washed with dichloromethane and the filtrates evaporated to obtain a residue of dl-trans-2-[(3-benzoyl)propionyl]-5-phenyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole which was used without purification in the next step.

reactant | dicyclohexylcarbodiimide | 4.20 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-benzoylpropionic acid | 4.20 mmole | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | trans-5-phenyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | C1(=CC=CC=C1)N1[C@H]2[C@H](C=3C=CC=CC13)CNCC2 | C17H18N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-2-[(3-benzoyl)propionyl]-5-phenyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | C(C1=CC=CC=C1)(=O)CCC(=O)N1C[C@@H]2[C@H](N(C=3C=CC=CC23)C2=CC=CC=C2)CC1 | C27H26N2O2
